US08530493B2
K1. Sodium 6-Fluoro-1H-indole-2-sulfonate
To a solution of 23.4 g sodium bisulfite in 80 ml water a solution of 13.5 g 6-fluoro indole in ethanol is added drop wise. The obtained suspension is stirred at room temperature over night. The precipitate is filtered and washed with cold water, cold methanol and diethyl ether. 7.0 g (29%) of the title compound are obtained as a colourless solid.

reactant | sodium bisulfite | 23.4 g | S([O-])(O)=O.[Na+]
reactant | 6-fluoro indole | 13.5 g | FC1=CC=C2C=CNC2=C1 | C8H6FN
solvent | water | 80 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | Sodium 6-Fluoro-1H-indole-2-sulfonate | 7.0 g, 29% | FC1=CC=C2C=C(NC2=C1)S(=O)(=O)[O-].[Na+] | InChI=1S/C8H6FNO3S.Na/c9-6-2-1-5-3-8(14(11,12)13)10-7(5)4-6;/h1-4,10H,(H,11,12,13);/q;+1/p-1
